US08071607B2
Compound 48A. 1-{4-[3-(4-Amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-imidazol-1-yl}-ethanone
Title compound 6A, 1-[3-(3H-Imidazol-4-yl)-phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (30 mg, 1.0 eq, 0.11 mmol) was dissolved in DMF (2 ml) and to this was added sodium hydride as a 60% dispersion in oil (5 mg, 1.1 eq, 0.12 mmol), the mixture was then stirred under an inert atmosphere for 20 minutes. To this was added acetyl chloride (7.7 μl, 1.1 eq, 0.12 mmol) the reaction was the stirred for 18 hours and allowed to warm to room temperature. Solvent was then remove in vacuo. The resultant residue was purified using mass-directed preparative HPLC to yield the compound as an off white solid (2.1 mg, 0.0007 mmol, 6%). LCMS: [M+H]+=320, Rt=1.32 min, 87% purity.

reactant | 1-[3-(3H-Imidazol-4-yl)-phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.11 mmol, 30 mg, 1.0 eq | N1=CNC(=C1)C=1C=C(C=CC1)N1N=CC=2C1=NC=NC2N | C14H11N7
reactant | sodium hydride | [H-].[Na+]
reactant | acetyl chloride | 0.12 mmol, 7.7 μl, 1.1 eq | C(C)(=O)Cl | C2H3ClO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-{4-[3-(4-Amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-imidazol-1-yl}-ethanone | 0.0007 mmol, 2.1 mg, 6% | NC1=C2C(=NC=N1)N(N=C2)C=2C=C(C=CC2)C=2N=CN(C2)C(C)=O | C16H13N7O
